US08034814B2
5e) trans 2-Isopropyl-[1,3]dioxan-5-ylamine
Hydrogenation of 4.07 g (14.6 mMol) of trans-benzyl-(2-isopropyl-[1,3]dioxan-5-yl)-carbamate in 80 ml of EtOAc in the presence of 0.4 g of 10% Pd/C, followed by filtration through Celite and evaporation, yields the title compound: 1H NMR (CDCl3) δ 4.11 (m, 3H), 3.20 (t, 10.5 Hz, 2H), 3.04 (m, 1H), 1.80 (m, 1H), 1.56 (sb, H2N), 0.93 (d, 6H).

reactant | trans-benzyl-(2-isopropyl-[1,3]dioxan-5-yl)-carbamate | 14.6 mMol, 4.07 g | C(C1=CC=CC=C1)OC(N[C@H]1CO[C@@H](OC1)C(C)C)=O | C15H21NO4
solvent | EtOAc | 80 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | trans 2-Isopropyl-[1,3]dioxan-5-ylamine | C(C)(C)[C@@H]1OC[C@H](CO1)N | C7H15NO2
